US06861425B2
2-(3,8-Diazabicyclo[3.2.1]oct-3-yl)-1-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1H-benzimidazole
A mixture of t-butyl 3-{1-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1H-benzimidazol-2-yl}-3,8-diazabicyclo[3.2.1]octane-8-carboxylate (57.8 mg, 0.099 mmol), trifluoroacetic acid (1 ml), and CH2Cl2 (3 ml) was stirred at room temperature for 0.5 hours. After evaporation of the solvent, the residue was treated with 10% HCl solution in MeOH (1.5 ml) at room temperature and allowed to stand for 0.5 hours. The reaction mixture was concentrated to give 44.6 mg (77.6%) of white amorphous solid as an HCl salt.

reactant | t-butyl 3-{1-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1H-benzimidazol-2-yl}-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 0.099 mmol, 57.8 mg | C1(=CC=CC=C1)C1(CCCCCC1)N1CCC(CC1)N1C(=NC2=C1C=CC=C2)N2CC1CCC(C2)N1C(=O)OC(C)(C)C | C36H49N5O2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,8-Diazabicyclo[3.2.1]oct-3-yl)-1-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1H-benzimidazole | 44.6 mg, 77.6% | C12CN(CC(CC1)N2)C2=NC1=C(N2C2CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)C=CC=C1 | C31H41N5
